US07071175B1
Diethylamine (3.67 ml, 3.67 mmol) was added dropwise followed by water (2.5 ml) and CH2Cl2 (2.5 ml) to a mixture of 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-malonic acid monoethyl ester (1.40 g, 3.64 mmol) and 37% aq. solution of formaldehyde (0.29 ml, 3.75 mmol) in CH2Cl2 (2 ml) at 0° C. The mixture was stirred for 20 h at room temperature and then poured onto ice-water and extracted with methylene chloride. The organic layer was washed with 5% NaHCO3, dried and concentrated under reduced pressure. Flash chromatography (1-2.5% methanol in CH2Cl2) yielded 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-acrylic acid ethyl ester 0.81 g (65%).

reactant | Diethylamine | 3.67 mmol, 3.67 ml | C(C)NCC | C4H11N
reactant | water | 2.5 ml | O | H2O
reactant | 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-malonic acid monoethyl ester | 3.64 mmol, 1.40 g | C(C)OC(C(C(=O)O)CC=1C=NC(=C(C1)Cl)NC(=O)OC(C)(C)C)=O | C16H21ClN2O6
reactant | formaldehyde | 3.75 mmol, 0.29 ml | C=O | CH2O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-tert-butoxycarbonylamino-5-chloro-pyridin-3-ylmethyl)-acrylic acid ethyl ester | 0.81 g, 65% | C(C)OC(C(=C)CC=1C=NC(=C(C1)Cl)NC(=O)OC(C)(C)C)=O | C16H21ClN2O4
